V1 N001 0 SINE(2 3 10 0)
V2 N002 0 SINE(1 2 100 2)
V3 N004 N005 SINE(2.5 1 44k 0 10)
R1 N002 N001 30
R3 N004 N003 44k
R4 N005 0 1m
L1 N003 N005 300m
L2 N004 N005 15m
C1 N004 N005 10p
C2 N003 N002 100µ

* .tran 0 0.1 0 0.1

.end
