V1 N001 0 SINE(1 5 1k)
V2 N002 0 SINE(0 3 500 0)
L1 N003 0 100m
C1 N003 N002 22µ
R1 N002 N001 1k
R2 0 N003 220
R3 0 N003 22k
C2 N004 N003 10n
R4 0 N004 1k2

.tran 0 10ms 0 1us

.end
