* A test circuit to demonstrate SPICE syntax

C1 N001 0 1µ
D1 N004 N002 D
I1 0 N004 0.1
L1 N002 N001 1m
Q1 N003 N001 0 NPN
R1 N001 N003 1k
R2 N002 N001 1Meg
V1 N003 0 SINE(2 1 1000)

.tran 0 10ms 0 1us

.end
