* C:\Users\Inigo Selwood\OneDrive - Imperial College London\Work\ADC\Lab work\Op-amp project\Full op-amp\Draft1.asc

V1 N001 0 3
R1 N002 N001 2
R2 0 N002 4
R3 0 N002 7

.tran 0 10ms 0 1us

.backanno

.end
