* C:\Users\Inigo Selwood\OneDrive - Imperial College London\Work\ADC\Lab work\Op-amp project\Full op-amp\Draft1.asc
V1 N001 0 1
R1 N002 N001 5
R3 0 N002 10
I1 0 N002 1

.tran 0 10ms 0 1ms
.backanno
.end
