* C:\Users\Inigo Selwood\OneDrive - Imperial College London\Work\ADC\Lab work\Op-amp project\Full op-amp\Draft1.asc
V1 N001 0 2
R1 N002 N001 5
R3 0 N002 10
I1 0 N002 1
R2 N003 0 20
R4 0 N003 15
I2 N003 0 5
.tran 0 0.1 0
.backanno
.end
