* A simple test containing only resistors

V1 N003 0 SINE(0 5 100)
R1 N004 N003 5
R2 N002 N004 3
R3 0 N002 1
R4 N002 N004 13
R5 N003 N001 11
R6 N004 N002 7
R7 N001 N002 17
.tran 0.1
